US07470723B2
A stirred mixture of 1-bromo-3-methoxy-benzene (1.49 g, 8.0 mmol) and dry THF (20 mL) was cooled to −78° C., evacuated and refilled with nitrogen for 10 cycles. To this clear solution was slowly added n-butyllithium (3.0 mL, 7.6 mmol) and stirred for 20 min. Then a mixture of benzo[1,3]dioxole-5-carbaldehyde (1.03 g, 6.8 mmol) in dry THF (15 mL) was added and stirred for 1 hour at −78° C. The mixture was quenched with isopropanol (3.5 mL, 46 mmol) and added water (10 mL). The mixture was extracted with EtOAc (3×40 mL). The combined organic phases were washed with water (2×40 mL), dried over MgSO4 and concentrated to give benzo[1,3]dioxol-5-yl-(3-methoxy-phenyl)-methanol as an oil (2.23 g, 113% crude yield). The product was used in the next step without further purification.

reactant | 1-bromo-3-methoxy-benzene | 8.0 mmol, 1.49 g | BrC1=CC(=CC=C1)OC | C7H7BrO
reactant | n-butyllithium | 7.6 mmol, 3.0 mL | C(CCC)[Li]
reactant | benzo[1,3]dioxole-5-carbaldehyde | 6.8 mmol, 1.03 g | O1COC2=C1C=CC(=C2)C=O | C8H6O3
reactant | isopropanol | 46 mmol, 3.5 mL | C(C)(C)O | C3H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | benzo[1,3]dioxol-5-yl-(3-methoxy-phenyl)-methanol | O1COC2=C1C=CC(=C2)C(O)C2=CC(=CC=C2)OC | C15H14O4
